US07645755B2
A solution of N-methoxypiperidinone (J. Org. Chem., 26, 1867, (1961), 650 mg, 5.00 mmol) in THF (20 mL)) was cooled to −78° C. and treated with LDA (1.5 M solution in cyclohex, THF and ethylbenzene, 4.3 mL, 6.4 mmol) under Ar. The resulting mixture was stirred at same temperature for 30 min and treated with N-phenyltrifluoromethanesulfonimide (2.3 g, 6.4 mmol) in THF (20 mL). The reaction mixture was stirred for another 30 min and allowed to warm to RT. After 30 min at RT, the reaction mixture was concentrated in vacuo and the residue obtained was taken up in EtOAc (20 mL) and washed with cold water (2×10 mL). EtOAc layer was dried (Na2SO4) and concentrated to afforded trifluoromethanesulfonic acid 1-methoxy-1,2,3,6-tetrahydro-pyridin-4-yl ester (980 mg , 71%) as a white foam which was directly used in next step

reactant | N-methoxypiperidinone | 5.00 mmol, 650 mg | CON1C(CCCC1)=O | C6H11NO2
reactant | LDA | 6.4 mmol, 1.5 M, 4.3 mL | [Li+].CC(C)[N-]C(C)C
reactant | N-phenyltrifluoromethanesulfonimide | 6.4 mmol, 2.3 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | trifluoromethanesulfonic acid 1-methoxy-1,2,3,6-tetrahydro-pyridin-4-yl ester | 980 mg, 71% | CON1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C7H10F3NO4S
